US05597825
4-Amidino-4'-[(4-methoxycarbonylbutyl)sulphinyl]biphenyl
Prepared from 4-amidino-4'-(4-methoxycarbonylbutylthio)biphenyl by oxidation with m-chloro-perbenzoic acid in methylene chloride at -20° C. for 15 hours.

reactant | 4-amidino-4'-(4-methoxycarbonylbutylthio)biphenyl | C(N)(=N)C1=CC=C(C=C1)C1=CC=C(C=C1)SCCCCC(=O)OC | C19H22N2O2S
reactant | m-chloro-perbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Amidino-4'-[(4-methoxycarbonylbutyl)sulphinyl]biphenyl | C(N)(=N)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)CCCCC(=O)OC | C19H22N2O3S
